US04431661
In the manner of Example 9, 5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one, dimethyl acetal can be reacted with 1-bromo-2-phenylethane and sodium carbonate in toluene to give 3-phenethyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one, dimethyl acetal.

reactant | 5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one | COC=1C=C(C=CC1)C12CNCC2CC1=O | C13H15NO2
reactant | 1-bromo-2-phenylethane | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-phenethyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one | C(CC1=CC=CC=C1)N1CC2CC(C2(C1)C1=CC(=CC=C1)OC)=O | C21H23NO2
